US07754747B2
Step 2: 4-[({1-bromo-6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]benzoic acid.
A mixture of methyl 4-[({1-bromo-6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]benzoate (77.2 mg, 0.126 mmol), prepared in the previous step, and 1 N NaOH (200 μL, 0.200 mmol) in 15 mL of THF, plus 15 mL of methanol, plus 5 mL of water was refluxed under nitrogen for 21 h. After cooling to room temperature the reaction was filtered and acidified by the addition of 300 μL of 1 N HCl. The reaction was concentrated under reduced pressure to remove most of the THF and methanol. The solid present was collected by filtration and dried under reduced pressure to give the title compound (61 mg, 81%) as a white solid, mp 281-283° C. Elemental Analysis for C33H26BrNO5. 0.05 H2O Calc'd: C, 66.35; H, 4.40; N, 2.34. Found: C, 66.50; H, 4.34; N, 2.18.

reactant | methyl 4-[({1-bromo-6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]benzoate | 0.126 mmol, 77.2 mg | BrC1=C(C=CC2=CC(=CC=C12)C1=CN=C(O1)C1=C(OC2=C1C=CC=C2)CCCC)OCC2=CC=C(C(=O)OC)C=C2 | C34H28BrNO5
reactant | NaOH | 0.200 mmol, 1 N, 200 μL | [OH-].[Na+]
reactant | methanol | 15 mL | CO | CH4O
reactant | water | 5 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-[({1-bromo-6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)methyl]benzoic acid | 61 mg, 81% | BrC1=C(C=CC2=CC(=CC=C12)C1=CN=C(O1)C1=C(OC2=C1C=CC=C2)CCCC)OCC2=CC=C(C(=O)O)C=C2 | C33H26BrNO5
